US07196087B2
To 288 mg (0.7 mmol) of 4-(3-benzylamino-2-cyano-6-fluoro-phenyl)-piperazine-1-carboxylic acid tert-butyl ester dissolved in 7 mL tetrahydrofuran was added 1.4 mL (2 eq., 1.4 mmol, 1M in tetrahydrofuran)borane. The mixture was refluxed 10 hours and quenched with methanol, partitioned between ethyl acetate and water, dried over magnesium sulfate and concentrated to yield crude 4-(2-aminomethyl-3-benzylamino-6-fluoro-phenyl)-piperazine-1-carboxylic acid tert-butyl ester, which was used directly in the following step.

reactant | 4-(3-benzylamino-2-cyano-6-fluoro-phenyl)-piperazine-1-carboxylic acid tert-butyl ester | 0.7 mmol, 288 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C(C(=CC=C1F)NCC1=CC=CC=C1)C#N | C23H27FN4O2
reactant | borane | 1.4 mmol, 1M, 1.4 mL, 2 eq. | B | BH3
solvent | tetrahydrofuran | 7 mL | O1CCCC1 | C4H8O
product | 4-(2-aminomethyl-3-benzylamino-6-fluoro-phenyl)-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C(C(=CC=C1F)NCC1=CC=CC=C1)CN | C23H31FN4O2
